US07776856B2
Amine preparation: to N-BOC-piperazine (500 mg) in dichloromethane (5 mL) and triethylaamine (0.41 ml) was added 4-nitrophenyl chloroformate (541 mg). After 1 hour the reaction mixture was diluted with dichloromethane, washed with brine, dried (MgSO4) and the solvent was removed in vacuo to yield piperazine-1,4-dicarboxylic acid tert-butyl ester 4-nitro-phenyl ester (940 mg).

reactant | N-BOC-piperazine | 500 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 4-nitrophenyl chloroformate | 541 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | piperazine-1,4-dicarboxylic acid tert-butyl ester 4-nitro-phenyl ester | 940 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21N3O6
